US04465678
37.07 g (0.3 mole) of morpholine hydrochloride, 57.1 g (0.3 mole) of p-tert.-butyl-propiophenone and 15.01 g (0.5 mole) of paraformaldehyde were heated under reflux in 150 ml of ethanol for 1 hour. After adding 0.5 ml of concentrated hydrochloric acid, the reaction mixture was stirred under reflux for a further 15 hours. It was then concentrated, the residue was taken up in chloroform, the chloroform mixture was washed twice with water and the organic phase was dried over sodium sulphate and concentrated. The crystalline residue was suspended in hot ethyl acetate, filtered off and dried. 60 g (61.5% of theory) of p-tert.-butyl-2-methyl-3-morpholin-4-yl-propiophenone hydrochloride of melting point 189° to 91° C. were obtained.

reactant | morpholine hydrochloride | 0.3 mole, 37.07 g | Cl.N1CCOCC1
reactant | p-tert.-butyl-propiophenone | 0.3 mole, 57.1 g | C(C)(C)(C)C1=CC=C(C=C1)C(CC)=O | C13H18O
reactant | paraformaldehyde | 0.5 mole, 15.01 g | C=O | CH2O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | p-tert.-butyl-2-methyl-3-morpholin-4-yl-propiophenone hydrochloride | 60 g, 61.5% | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(C(CN1CCOCC1)C)=O | InChI=1S/C18H27NO2.ClH/c1-14(13-19-9-11-21-12-10-19)17(20)15-5-7-16(8-6-15)18(2,3)4;/h5-8,14H,9-13H2,1-4H3;1H
